2187-10-27 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2187-10-26**] 10:05 AM
 ARTERIAL LINE - START [**2187-10-26**] 06:00 PM
 URINE CULTURE - At [**2187-10-26**] 07:55 PM
   K2.9 given 30meq KCL with improvement to 3.3.
   Nursing raised question of zoster on abd.
   Last BG up to 342
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2187-10-27**] 02:00 AM
   Meropenem - [**2187-10-27**] 04:42 AM
   Vancomycin - [**2187-10-27**] 06:05 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2187-10-26**] 06:50 PM
   Other medications:
   ISS
   Ipratropium
   Albuterol
   Tylenol
   Versed
   Calcium carbonate
   Fluconazole
   PO and IV vanco
   Lansoprazole
   Chlorhexideine
   Keppra
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-27**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.7
C (98
   HR: 81 (78 - 104) bpm
   BP: 137/49(77) {97/34(51) - 171/64(100)} mmHg
   RR: 9 (4 - 30) insp/min
   SpO2: 98% (96-100)
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 40.4 kg (admission): 40.5 kg
   Height: 61 Inch
             Total In:
                                                                  2,547 mL
                                                                    487 mL
   PO:
             TF:
                                                                    129 mL
                                                                    221 mL
   IVF:
                                                                  1,543 mL
                                                                    266 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  2,573 mL
                                                                     10 mL
   Urine:
                                                                     73 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -26 mL
                                                                    477 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 438 (408 - 458) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 293
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 19 cmH2O/mL
   SpO2: 98%
   ABG: 7.52/33/175/27/4
   Ve: 9.9 L/min
   PaO2 / FiO2: 350
   Physical Examination
   Gen:  Patient unable to give any history.  responding to verbal stimuli
   from family only. Cachectic.
   HEENT:  Pupils round and minimally reactive to light, MMM, OP clear
   Heart:  S1S2 RRR, distant heart sounds
   Lungs:  Crackles in bilat lower half of lung fields, coarse breath
   sounds bilaterally.
   Abdomen:  PEG tube in place. Hypoactive BS.  Soft ND.
   Ext:  Sacral decubitus ulcer.  No edema. WWP.
   Neuro:  Plantars down going.  Reflexes 1+ bilaterally.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   73 K/uL
   10.3 g/dL
   166 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.3 mEq/L
   37 mg/dL
   100 mEq/L
   137 mEq/L
   29.5 %
   23.0 K/uL
        [image002.jpg]
   HCT: 30.1 to 22.5 to 30.5 to 29.5
   Cr: 3.6 to 0.9 to 1.5
   CK: 82 to 89. Troop 3.75 x 2
   CXR: reticular pattern of fibrosis / s/p TB. PNA in RUL and LLL
   Micro:
   [**10-26**] urine pending
   [**10-25**] 12/5 blood pending
   C diff neg x 1
   Sputum GS: 2+ GPC in clusters, 1+ CPC in chains, cult pending
                             [**2187-10-26**]  04:57 AM
                             [**2187-10-26**]  11:45 AM
                             [**2187-10-26**]  05:53 PM
                             [**2187-10-27**]  04:07 AM
                             [**2187-10-27**]  04:15 AM
   WBC
   32.5
   23.1
   23.0
   Hct
   22.5
   30.5
   29.5
   Plt
   79
   80
   73
   Cr
   3.6
   0.9
   1.5
   TropT
   3.75
   3.75
   TCO2
   28
   Glucose
   [**Telephone/Fax (3) 2673**]66
   Other labs: PT / PTT / INR:16.4/38.8/1.5, CK / CKMB /
   Troponin-T:82//3.75, Alk Phos / T Bili:/0.5, Differential-Neuts:88.6 %,
   Band:13.0 %, Lymph:4.3 %, Mono:6.4 %, Eos:0.5 %, LDH:189 IU/L, Ca++:8.2
   mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   78 y/o gentleman with CAD, systolic CHF EF 20%, ischemic/hemorrhagic
   CVA, ESRD/HD, recurrent PNA presents with septic shock, respiratory
   failure and altered mental status.
   .
   # Sepsis: VS now stable.  Likely source of infection is lung.  Patient
   has known pneumonia with MRSA and klebsiella in the past.  Crakles on
   exam, sputum production from trach suction, leukocytosis, bandermia,
   and abnormal CXR are consistent with pneumonia. Need to cover broadly
   given recent treatment with vanc/cefepime and hospitalization.  Also
   has decub ulcer.
   - follow up blood  and urine culture
   -  sputum culture pending
   - renally dosed IV  vancomycin and meropenem, Also Flagyl and PO vanco
   - IVF to keep MAP > 60
   - AM CXR stable
   .
   # AMS:  Likely secondary to sepsis and recent midazolam.  Now
   responding to family. Continue to monitor
   .
   # Hypoxia:  Most likely due to PNA.  Currently saturating well on vent
   support.
   -          vanc/meropenem till culture and sensitivity comes back
   -          ABG with respiratory alk, continue to wean down FiO2 and RR
   as tolerated
   .
   # Thrush:  Unable to follow swish and swallow directions therefore
   started on PO fluconazole.
   .
   # CHF:  Currently does not appear to be volume overloaded.  ? BNP of
   8000 at OSH.
   - careful IVF to treat sepsis
   .
   # CAD: Normal CK at OSH and elevated tropinin in the setting of renal
   failure.  EKG changes are most likely due to LVH with strain pattern.
   - CK flat. Tropinin increase [**12-23**] renal failure.
   .
   # ESRD/HD:  Last dialysis yesterday.
   -          renal following
   -          will ask about repleting phos
   .
   # Diarrhea: Elevated WBC and bandemia.  Recent antibiotics.  Needs to
   rule out c diff.
   - c diff neg x1, resent.
   - oral vanc and flagyl
   .
   # Decubitus ulcer:  Improving per daughter. [**Name (NI) **] nursing stage 3
   - appreciate wound care recs
   .
   # Access: PIV x3, R subclavian HD acess, R a- line. To have mid line
   placed today.
   .
   # FEN: NPO for now, TF restarted as per nutrition
   .
   # PPx: pneumoboots, PPI.
   .
   # Code: Full code, no central lines after discussing with family (wife
   [**Name (NI) **] [**Name (NI) **], daughters [**Name (NI) 2645**] and [**Name (NI) 2646**])
   .
   # Contact: Wife [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 2647**], Daughter [**Name (NI) 2645**] [**Telephone/Fax (1) 2648**], [**Name2 (NI) 2646**]
   [**Telephone/Fax (1) 2649**]
   .
   # Dispo: ICU level care for now.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2187-10-26**] 03:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-10-26**] 12:20 AM
   Dialysis Catheter - [**2187-10-26**] 12:22 AM
   20 Gauge - [**2187-10-26**] 12:34 AM
   Arterial Line - [**2187-10-26**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2187-10-28 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2187-10-27**] 08:00 PM -> PAN CULTURE peripheralx2,
   sputum, cdiff
   - sputum cult growing GNR x3 types
   - HCT stable
   - tried PICC but unsuccessful
 unable to advance wire
   - increased ISS, added glargine
   - pt has stage 3 decub and anal fissure contanimated with stool,
   flexiseal placed.
   - RR, FiO2 decreased, remained resp alk, overbreathing the vent,
   attempting PS.
   - family meeting, still full code
   - per nursing request switched from fluconazole to nystatin swish and
   suction for thrush
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Metronidazole
   Meropenem
   Vancomycin (IV and PO)
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2187-10-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to assess
   Flowsheet Data as of  [**2187-10-28**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.5
C (99.5
   HR: 86 (81 - 100) bpm
   BP: 131/49(75) {125/45(71) - 159/66(98)} mmHg
   RR: 19 (12 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 39.5 kg (admission): 40.5 kg
   Height: 61 Inch
             Total In:
                                                                  2,047 mL
                                                                    402 mL
   PO:
             TF:
                                                                    917 mL
                                                                    242 mL
   IVF:
                                                                    940 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                     35 mL
                                                                      0 mL
   Urine:
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,012 mL
                                                                    402 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 290
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: 7.49/32/192/24/2 (3a) -> 7.45/36/181/26 (6a)
   Ve: 8.3 L/min
   PaO2 / FiO2: 480
   Physical Examination
   Gen:  Patient unable to give any history.  Not responding to verbal
   stimuli. Cachectic.
   HEENT:  Pupils round and minimally reactive to light, MMM
   Heart:  S1S2 RRR, distant heart sounds
   Lungs:  coarse breath sounds bilaterally.
   Abdomen:  PEG tube in place. Hypoactive BS.  Soft ND. R sided
   excoriated rash along approx T 10 dermatome and not crossing midline
   anteriorly or posteriorly.
   Ext:  Sacral decubitus ulcer w/covering bandage.  No edema.
   Neuro:  Unresponsive to verbal stimuli, not following commands.
   Decreased reflexes all 4 extremities.
   Labs / Radiology
   66 K/uL
   9.9 g/dL
   73 mg/dL
   2.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   66 mg/dL
   102 mEq/L
   136 mEq/L
   29.8 %
   17.2 K/uL
        [image002.jpg]
                             [**2187-10-26**]  04:57 AM
                             [**2187-10-26**]  11:45 AM
                             [**2187-10-26**]  05:53 PM
                             [**2187-10-27**]  04:07 AM
                             [**2187-10-27**]  04:15 AM
                             [**2187-10-27**]  08:05 AM
                             [**2187-10-27**]  01:13 PM
                             [**2187-10-27**]  09:03 PM
                             [**2187-10-28**]  02:47 AM
                             [**2187-10-28**]  03:03 AM
   WBC
   32.5
   23.1
   23.0
   17.2
   Hct
   22.5
   30.5
   29.5
   31.5
   29.8
   Plt
   79
   80
   73
   66
   Cr
   3.6
   0.9
   1.5
   2.3
   TropT
   3.75
   3.75
   TCO2
   28
   27
   26
   25
   Glucose
   [**Telephone/Fax (3) 2673**]66
   81
   73
   Other labs:
   PT / PTT / INR:16.3/37.7/1.5
   Ca++:8.1 mg/dL (free Ca 1.16), Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Micro:
   BCx [**10-25**], [**10-26**], [**10-27**] pending
   Sputum with GNR x3
   Cdiff negative x2
   Assessment and Plan
   78 y/o gentleman with CAD, systolic CHF EF 20%, ischemic/hemorrhagic
   CVA, ESRD/HD, recurrent PNA presents with septic shock, respiratory
   failure and altered mental status.
   .
   # Sepsis: VS now stable except for fever.  Likely aspiration pneumonia,
   especially now with 3x GNR growing from sputum culture.  Patient has
   known pneumonia with MRSA and klebsiella in the past.  Crakles on exam,
   sputum production from trach suction, leukocytosis, bandermia, and
   abnormal CXR are all also consistent with pneumonia. Need to cover
   broadly given recent treatment with vanc/cefepime and hospitalization.
   Also has decub ulcer and diarrhea. Cdiff negative x2.
   - 1 additional CDiff
   - follow up blood, urine, sputum culture
   - renally dosed IV  meropenem for pneumonia, vancomycin for bacteremia
   from decub ulcer,  IV Flagyl and PO vanco for Cdiff
   - flexocele in to limit fecal contamination of decubitous ulcer
   - IVF to keep MAP > 60
   .
   # AMS:  Likely secondary to sepsis.  Reportedly responding to family
   yesterday. Continue to monitor.
   .
   # Hypoxia:  Resolving.  Most likely due to PNA.  Currently saturating
   well on reduced vent support.  Poor EF likely also contributing.
   -          vanc/meropenem until culture and sensitivity comes back
   -          ABGs with respiratory alk, continue to wean down FiO2 and RR
   as tolerated
 consider changing to PSV today.
   .
   # Thrush:  Nystatin swish and suction
   .
   # CHF:  Currently does not appear to be volume overloaded.  ? BNP of
   8000 at OSH.
   -          careful IVF to treat sepsis
   -          on B-blocker
   -          re-start ASA and [**Last Name (un) 284**] vs Hydralizine/Imdur (as per
   nephrology) if BP remains stable, restart statin
   .
   # CAD: Normal CK at OSH and elevated tropinin in the setting of renal
   failure.  EKG changes are most likely due to LVH with strain pattern.
   CK flat. Tropinin increase likely [**12-23**] renal failure, although some
   demand ischemia cannot be r/o.
   - optimize CHF medications
   .
   # ESRD/HD:  next dialysis scheduled for tomorrow unless otherwise
   indicated in the next 24h.
   -          renal following, appreciate recs
   -          Hydral/imdur over [**Last Name (un) 284**]/ACE for CHF treatment optimization
   .
   # Diarrhea: Elevated WBC and bandemia.  Recent antibiotics.  Needs to
   rule out c diff.
   - c diff neg x2, resent.
   - oral vanc and flagyl until 3x negative (b/c of high pre-test
   probability for Cdiff)
   .
   # Decubitus ulcer:  Improving per daughter. [**Name (NI) **] nursing stage 3
   -          appreciate wound care recs
   -          flexocele to limit contribution
   .
   # R flank rash: exam c/w zoster, although patient does not express pain
   (admittedly difficult to properly assess).
   - zoster precautions for staff
   .
   # Access: PIV x3, R subclavian HD acess, R a- line. To IR for picc
   tomorrow(?)
   .
   # FEN: TF restarted as per nutrition
   .
   # PPx: pneumoboots, PPI.
   .
   # Code: Full code, no central lines after discussing with family (wife
   [**Name (NI) **] [**Name (NI) **], daughters [**Name (NI) 2645**] and [**Name (NI) 2646**])
   .
   # Contact: Wife [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 2647**], Daughter [**Name (NI) 2645**] [**Telephone/Fax (1) 2648**], [**Name2 (NI) 2646**]
   [**Telephone/Fax (1) 2649**]
   .
   # Dispo: ICU level care for now.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2187-10-28**] 03:45 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-10-26**] 12:20 AM
   Dialysis Catheter - [**2187-10-26**] 12:22 AM
   20 Gauge - [**2187-10-26**] 12:34 AM
   Arterial Line - [**2187-10-26**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-10-29 04:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * moved to MICU
     * PSV trial failed for tachypnea to 40's
     * started on asa, statin
     * 1 additional CDiff sent, can d/c IV flagyl and po vanc if negative
       x3
     * nephrology recs: HD tomorrow, use hydral and isordyl in place of
       [**Last Name (un) 284**]/ACE to protect kidneys (may eventually recover from ATN, even
       up to 6 months out)
     * small amount of blood from trachea over night
     * to IR for PICC today
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2187-10-28**] 04:38 AM
   Metronidazole - [**2187-10-29**] 02:00 AM
   Vancomycin - [**2187-10-29**] 04:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2187-10-28**] 04:20 PM
   Dextrose 50% - [**2187-10-29**] 04:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-29**] 04:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.4
   HR: 76 (75 - 94) bpm
   BP: 141/52(80) {119/45(68) - 157/69(102)} mmHg
   RR: 22 (9 - 50) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 39.5 kg (admission): 40.5 kg
   Height: 61 Inch
             Total In:
                                                                  1,994 mL
                                                                    451 mL
   PO:
             TF:
                                                                  1,174 mL
                                                                    177 mL
   IVF:
                                                                    540 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                    310 mL
                                                                     35 mL
   Urine:
                                                                     80 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,684 mL
                                                                    416 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (0 - 350) mL
   Vt (Spontaneous): 341 (341 - 341) mL
   PS : 20 cmH2O
   RR (Set): 14
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.45/36/181/22/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 453
   Physical Examination
   Gen:  Patient unable to give any history.  Not responding to verbal
   stimuli. Cachectic.
   HEENT:  Pupils round and minimally reactive to light, MMM
   Heart:  S1S2 RRR, distant heart sounds
   Lungs:  coarse breath sounds bilaterally.
   Abdomen:  PEG tube in place. Hypoactive BS.  Soft ND. R sided
   excoriated rash along approx T 10 dermatome and not crossing midline
   anteriorly or posteriorly.
   Ext:  Sacral decubitus ulcer w/covering bandage.  No edema.
   Neuro:  Unresponsive to verbal stimuli, not following commands.
   Decreased reflexes all 4 extremities.
   Labs / Radiology
   63 K/uL
   9.0 g/dL
   70 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.0 mEq/L
   93 mg/dL
   103 mEq/L
   136 mEq/L
   27.3 %
   11.5 K/uL
        [image002.jpg]
                             [**2187-10-26**]  05:53 PM
                             [**2187-10-27**]  04:07 AM
                             [**2187-10-27**]  04:15 AM
                             [**2187-10-27**]  08:05 AM
                             [**2187-10-27**]  01:13 PM
                             [**2187-10-27**]  09:03 PM
                             [**2187-10-28**]  02:47 AM
                             [**2187-10-28**]  03:03 AM
                             [**2187-10-28**]  06:11 AM
                             [**2187-10-29**]  02:00 AM
   WBC
   23.1
   23.0
   17.2
   11.5
   Hct
   30.5
   29.5
   31.5
   29.8
   27.3
   Plt
   80
   73
   66
   63
   Cr
   0.9
   1.5
   2.3
   3.0
   TCO2
   28
   27
   26
   25
   26
   Glucose
   145
   173
   166
   81
   73
   70
   Other labs: PT / PTT / INR:16.6/37.9/1.5, CK / CKMB /
   Troponin-T:82//3.75, Alk Phos / T Bili:/0.5, Differential-Neuts:84.8 %,
   Band:13.0 %, Lymph:6.1 %, Mono:7.4 %, Eos:1.5 %, LDH:189 IU/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Vanc: 29
   C-Diff Final [**10-28**]
 neg
   Sputum prelim [**10-27**]
 negative gram stain, awaiting cx
   Blood cx
s [**10-25**], [**10-27**]
 no growth as of this AM
   Assessment and Plan
   78 y/o gentleman with CAD, systolic CHF EF 20%, ischemic/hemorrhagic
   CVA, ESRD/HD, recurrent PNA presents with septic shock, respiratory
   failure and altered mental status.
   .
   # Sepsis: VS now stable except for fever.  Likely aspiration pneumonia,
   especially now with 3x GNR growing from sputum culture.  Patient has
   known pneumonia with MRSA and klebsiella in the past.  Crakles on exam,
   sputum production from trach suction, leukocytosis, bandermia, and
   abnormal CXR are all also consistent with pneumonia. Need to cover
   broadly given recent treatment with vanc/cefepime and hospitalization.
   Also has decub ulcer and diarrhea. Cdiff negative x2.
   -  C-diff neg X 3
   - follow up blood, urine, sputum culture
   - renally dosed IV  meropenem for pneumonia, vancomycin for bacteremia
   from decub ulcer
   - flexocele in to limit fecal contamination of decubitous ulcer
   - IVF to keep MAP > 60
   .
   # Hypoxia:  Resolving.  Most likely due to PNA.  Currently saturating
   well on reduced vent support.  Poor EF likely also contributing.
   -          vanc/meropenem until culture and sensitivity comes back
   -          ABGs with respiratory alk, continue to wean down FiO2 and RR
   as tolerated
 trial on PSV 12/8
   .
   # CHF:  Currently does not appear to be volume overloaded.  ? BNP of
   8000 at OSH.
   -          careful IVF to treat sepsis
   -          increased B-blocker
 Coreg to 25
   -          Hydralizine/Imdur (as per nephrology) if BP remains stable,
   restarted statin, hydral at low dose
   .
   # ESRD/HD:  next dialysis scheduled for tomorrow unless otherwise
   indicated in the next 24h.
   -          renal following, appreciate recs
   -          Hydral/imdur for CHF treatment optimization per renal
   .
   # CAD: Normal CK at OSH and elevated tropinin in the setting of renal
   failure.  EKG changes are most likely due to LVH with strain pattern.
   CK flat. Tropinin increase likely [**12-23**] renal failure, although some
   demand ischemia cannot be r/o.
   - optimize CHF medications
   .
   # Diarrhea: Elevated WBC and bandemia.  Recent antibiotics.  Needs
   C-diff negative X 3.
   -          d/c
d oral vanc and flagyl
   .
   # Decubitus ulcer:  Improving per daughter. [**Name (NI) **] nursing stage 3
   -          appreciate wound care recs
   -          flexocele to limit contribution
   .
   # R flank rash: exam c/w zoster, although patient does not express pain
   (admittedly difficult to properly assess).
   - zoster precautions for staff
   .
   # Thrush:  Nystatin swish and suction
   .
   # AMS:  Likely secondary to sepsis.  Reportedly responding to family
   yesterday. Continue to monitor.
   .
   # Access: PIV x3, R subclavian HD acess, R a- line. To IR for PICC [**10-29**]
   .
   # FEN: TF restarted as per nutrition
   .
   # PPx: pneumoboots, PPI.
   .
   # Code: Full code, no central lines after discussing with family (wife
   [**Name (NI) **] [**Name (NI) **], daughters [**Name (NI) 2645**] and [**Name (NI) 2646**])
 central permissible for code
   situations per family
   .
   # Contact: Wife [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 2647**], Daughter [**Name (NI) 2645**] [**Telephone/Fax (1) 2648**], [**Name2 (NI) 2646**]
   [**Telephone/Fax (1) 2649**]
   .
   # Dispo: ICU level care for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2187-10-26**] 12:22 AM
   Arterial Line - [**2187-10-26**] 06:00 PM
   20 Gauge - [**2187-10-28**] 10:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-10-30 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2187-10-29**] 03:37 PM
 FEVER - 101.6
F - [**2187-10-29**] 04:00 PM
   -s/p PICC placement
   -fever to 101, hypotensive SBPs to 70, given 250cc fluid and got sputum
   culture, repeat CXR (unchanged)
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2187-10-28**] 04:38 AM
   Vancomycin - [**2187-10-29**] 04:00 AM
   Metronidazole - [**2187-10-29**] 10:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2187-10-30**] 12:08 AM
   Dextrose 50% - [**2187-10-30**] 04:08 AM
   Other medications:
   Hydralazine
   Coreg
   ISS
   Isosorbide Dinitrate
   Atorvastatin
   ASA
   Nystatin oral
   Ipratropium
   Abluterol
   Tylenol
   Calcium carbonate
   Lansoprazole
   Chlorhexidine
   Keppra
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-30**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.8
C (98.2
   HR: 75 (69 - 95) bpm
   BP: 143/58(87) {80/37(48) - 175/83(114)} mmHg
   RR: 24 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 39.5 kg (admission): 40.5 kg
   Height: 61 Inch
             Total In:
                                                                  2,016 mL
                                                                    703 mL
   PO:
             TF:
                                                                    931 mL
                                                                    255 mL
   IVF:
                                                                    690 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                    144 mL
                                                                     10 mL
   Urine:
                                                                    141 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,873 mL
                                                                    693 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 8.1 L/min
   Physical Examination
   Gen:  Patient unable to give any history.  Not responding to verbal
   stimuli. Cachectic.
   HEENT:  Pupils round and minimally reactive to light, MMM
   Heart:  S1S2 RRR, distant heart sounds
   Lungs:  coarse breath sounds bilaterally, L> R.
   Abdomen:  PEG tube in place. + BS.  Soft ND. R sided excoriated rash
   along approx T 10 dermatome and not crossing midline anteriorly or
   posteriorly.  Today significant worsening  with open wounds from scabs
   ripping off.
   Ext:  Sacral decubitus ulcer w/covering bandage.  No edema.
   Neuro:  Unresponsive to verbal stimuli, not following commands.
   Decreased reflexes all 4 extremities.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Tele: brief episode of trigemineny
   Labs / Radiology
   66 K/uL
   9.4 g/dL
   32 mg/dL
   1.6 mg/dL
   28 mEq/L
   3.3 mEq/L
   42 mg/dL
   104 mEq/L
   139 mEq/L
   28.7 %
   8.9 K/uL
        [image002.jpg]
   CXR: PICC in SVC
   Vanco at 29.4
   [**10-26**] suptum GNR x3
   [**10-27**] sputum GNR x 2
   Blood on [**11-1**], [**10-27**], [**10-29**], pending.
                             [**2187-10-27**]  04:07 AM
                             [**2187-10-27**]  04:15 AM
                             [**2187-10-27**]  08:05 AM
                             [**2187-10-27**]  01:13 PM
                             [**2187-10-27**]  09:03 PM
                             [**2187-10-28**]  02:47 AM
                             [**2187-10-28**]  03:03 AM
                             [**2187-10-28**]  06:11 AM
                             [**2187-10-29**]  02:00 AM
                             [**2187-10-30**]  02:11 AM
   WBC
   23.0
   17.2
   11.5
   8.9
   Hct
   29.5
   31.5
   29.8
   27.3
   28.7
   Plt
   73
   66
   63
   66
   Cr
   1.5
   2.3
   3.0
   1.6
   TCO2
   28
   27
   26
   25
   26
   Glucose
   173
   166
   81
   73
   70
   32
   Other labs: PT / PTT / INR:16.9/37.8/1.5, CK / CKMB /
   Troponin-T:82//3.75, Alk Phos / T Bili:/0.5, Differential-Neuts:84.8 %,
   Band:13.0 %, Lymph:6.1 %, Mono:7.4 %, Eos:1.5 %, LDH:189 IU/L, Ca++:8.0
   mg/dL, Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   78 y/o gentleman with CAD, systolic CHF EF 20%, ischemic/hemorrhagic
   CVA, ESRD/HD, recurrent PNA presents with septic shock, respiratory
   failure and altered mental status.
   .
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Continued fever.  Likely aspiration pneumonia, especially now with 3x
   GNR growing from sputum culture.  Patient has known pneumonia with MRSA
   and klebsiella in the past.  Crakles on exam, sputum production from
   trach suction, leukocytosis, bandermia, and abnormal CXR are all also
   consistent with pneumonia. Need to cover broadly given recent treatment
   with vanc/cefepime and hospitalization.  Also has decub ulcer and
   diarrhea. Cdiff negative x3.
   - follow up blood, urine, sputum culture
   - renally dosed IV  meropenem and for pneumonia
   - no evidence of GPC on culture, therefore d/ced vanco today
   - flexocele in to limit fecal contamination of decubitous ulcer
   - IVF to keep MAP > 60
   - Overnight and again this afternoon pt with BP drops to SBP 70s.
   improves with repositioning. Lightly partially do to change in level of
   A-line. Given 250cc bolus overnight and rapidly improved to
   hypertensive range. Pt positive for LOS, and today, no fever or change
   in HR to suggest sepsis. We ESRD reluctant to bolus IVF. Continue to
   monitor BP
   .
   # AMS:  Likely secondary to sepsis.  Reportedly responding to family
   yesterday. Continue to monitor.
   .
 RESPIRATORY FAILURE, CHRONIC
    Hypoxia:  Resolving.  Most likely due to PNA.  Currently saturating
   well on vent support.  Poor EF likely also contributing.  Tolerated PS
   for few hours this afternoon. Continue to wean as tolerated
   -          meropenem until culture and sensitivity comes back
   .
   # Thrush:  Nystatin swish and suction
   .
   # CHF:  Currently does not appear to be volume overloaded.  ? BNP of
   8000 at OSH.
   -          careful IVF as above
   -          on B-blocker
   -          re-started ASA and  Hydralizine/Imdur (as per nephrology) if
   BP remains stable, restart statin. Hold BP meds tomorrow am for HD. IF
   BP continues to fluctuate cut back on BP meds. However, prefer to keep
   BP low given poor EF.
   .
   # CAD: Normal CK at OSH and elevated tropinin in the setting of renal
   failure.  EKG changes are most likely due to LVH with strain pattern.
   CK flat. Tropinin increase likely [**12-23**] renal failure, although some
   demand ischemia cannot be r/o.
   -          optimize CHF medications
   -          ASA
   .
   # DM: Glucose widely fluctuating between 51 and 318 over last 24 hrs.
   Changing requirements in setting of acute infection.
   -Decrease glargine and adjust ISS as necessary
 RENAL FAILURE,
   # ESRD/HD:  next dialysis scheduled for tomorrow.
   -          renal following, appreciate recs
   -          Hydral/imdur over [**Last Name (un) 284**]/ACE for CHF treatment optimization,
   holding tomorrow am.
   .
   # Diarrhea: Elevated WBC and bandemia.  Recent antibiotics.  Needs to
   rule out c diff.
   - c diff neg x3
   - d/ced oral vanc and flagyl
   .
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   :  Improving per daughter. [**Name (NI) **] nursing stage 3
   -          appreciate wound care recs
   -          flexocele to limit contramination
   .

 HERPES ZOSTER
   R flank rash: exam c/w zoster, although patient does not express pain
   (admittedly difficult to properly assess).
   - zoster precautions for staff
   -wound care recs
   .
   # Access: PIV x3, R subclavian HD acess, R a- line. To IR for picc
   tomorrow(?)
   .
   # FEN: TF restarted as per nutrition
   .
   # PPx: pneumoboots, PPI.
   .
   # Code: Full code, no central lines after discussing with family (wife
   [**Name (NI) **] [**Name (NI) **], daughters [**Name (NI) 2645**] and [**Name (NI) 2646**])
   .
   # Contact: Wife [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 2647**], Daughter [**Name (NI) 2645**] [**Telephone/Fax (1) 2648**], [**Name2 (NI) 2646**]
   [**Telephone/Fax (1) 2649**]
   .
   # Dispo: ICU level care for now, to rehab once bacteria identification
   and abx choice and length of treatment specified
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2187-10-30**] 01:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2187-10-26**] 12:22 AM
   Arterial Line - [**2187-10-26**] 06:00 PM
   20 Gauge - [**2187-10-28**] 10:45 AM
   PICC Line - [**2187-10-29**] 03:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-10-31 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - sputum cult growing ESBL Klebs, meropenem sensitivities pending
   -d/ced vanco
   - BG ranging between 51 and 320, decreased lantus dose and qhs SS
   -holding BP med [**10-31**] am for HD
   -tolerated PS 10/5 for 2 hrs yesterday afternoon
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-10-29**] 04:00 AM
   Metronidazole - [**2187-10-29**] 10:00 AM
   Meropenem - [**2187-10-30**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-31**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 79 (66 - 87) bpm
   BP: 140/54(84) {57/29(37) - 156/69(102)} mmHg
   RR: 22 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 39.5 kg (admission): 40.5 kg
   Height: 61 Inch
             Total In:
                                                                  1,759 mL
                                                                     59 mL
   PO:
             TF:
                                                                    444 mL
   IVF:
                                                                    640 mL
                                                                     59 mL
   Blood products:
   Total out:
                                                                     12 mL
                                                                      0 mL
   Urine:
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,747 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 302 (302 - 302) mL
   PS : 20 cmH2O
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: 7.43/39/171/24/2
   Ve: 7.7 L/min
   PaO2 / FiO2: 428
   Physical Examination
   Gen:  Patient unable to give any history.  Not responding to verbal
   stimuli. Cachectic.
   HEENT:  Pupils round and minimally reactive to light, MMM
   Heart:  S1S2 RRR, distant heart sounds
   Lungs:  coarse breath sounds bilaterally, L> R.
   Abdomen:  PEG tube in place. + BS.  Soft ND. R sided excoriated rash
   along approx T 10 dermatome and not crossing midline anteriorly or
   posteriorly.  Today significant worsening  with open wounds from scabs
   ripping off.
   Ext:  Sacral decubitus ulcer w/covering bandage.  No edema.
   Neuro:  Unresponsive to verbal stimuli, not following commands.
   Decreased reflexes all 4 extremities.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   64 K/uL
   9.4 g/dL
   128 mg/dL
   2.3 mg/dL
   24 mEq/L
   4.3 mEq/L
   63 mg/dL
   102 mEq/L
   136 mEq/L
   28.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2187-10-27**]  08:05 AM
                             [**2187-10-27**]  01:13 PM
                             [**2187-10-27**]  09:03 PM
                             [**2187-10-28**]  02:47 AM
                             [**2187-10-28**]  03:03 AM
                             [**2187-10-28**]  06:11 AM
                             [**2187-10-29**]  02:00 AM
                             [**2187-10-30**]  02:11 AM
                             [**2187-10-30**]  02:24 PM
                            [**2187-10-31**]  03:53 AM
   WBC
   17.2
   11.5
   8.9
   7.3
   Hct
   31.5
   29.8
   27.3
   28.7
   28.6
   Plt
   66
   63
   66
   64
   Cr
   2.3
   3.0
   1.6
   2.3
   TCO2
   27
   26
   25
   26
   27
   Glucose
   81
   73
   70
   32
   128
   Other labs: PT / PTT / INR:16.9/37.8/1.5, CK / CKMB /
   Troponin-T:82//3.75, Alk Phos / T Bili:/0.5, Differential-Neuts:84.8 %,
   Band:13.0 %, Lymph:6.1 %, Mono:7.4 %, Eos:1.5 %, LDH:189 IU/L, Ca++:8.4
   mg/dL, Mg++:2.4 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   78 y/o gentleman with CAD, systolic CHF EF 20%, ischemic/hemorrhagic
   CVA, ESRD/HD, recurrent PNA presents with septic shock, respiratory
   failure and altered mental status.
   .
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Continued fever.  Likely aspiration pneumonia, especially now with 3x
   GNR growing from sputum culture.  Patient has known pneumonia with MRSA
   and klebsiella in the past.  Crakles on exam, sputum production from
   trach suction, leukocytosis, bandermia, and abnormal CXR are all also
   consistent with pneumonia. Need to cover broadly given recent treatment
   with vanc/cefepime and hospitalization.  Also has decub ulcer and
   diarrhea. Cdiff negative x3.
   - follow up blood, urine, sputum culture
   - renally dosed IV  meropenem and for pneumonia
   - no evidence of GPC on culture, therefore d/ced vanco today
   - flexocele in to limit fecal contamination of decubitous ulcer
   - IVF to keep MAP > 60
   - Overnight and again this afternoon pt with BP drops to SBP 70s.
   improves with repositioning. Lightly partially do to change in level of
   A-line. Given 250cc bolus overnight and rapidly improved to
   hypertensive range. Pt positive for LOS, and today, no fever or change
   in HR to suggest sepsis. We ESRD reluctant to bolus IVF. Continue to
   monitor BP
   .
   # AMS:  Likely secondary to sepsis.  Reportedly responding to family
   yesterday. Continue to monitor.
   .
 RESPIRATORY FAILURE, CHRONIC
    Hypoxia:  Resolving.  Most likely due to PNA.  Currently saturating
   well on vent support.  Poor EF likely also contributing.  Tolerated PS
   for few hours this afternoon. Continue to wean as tolerated
   -          meropenem until culture and sensitivity comes back
   .
   # Thrush:  Nystatin swish and suction
   .
   # CHF:  Currently does not appear to be volume overloaded.  ? BNP of
   8000 at OSH.
   -          careful IVF as above
   -          on B-blocker
   -          re-started ASA and  Hydralizine/Imdur (as per nephrology) if
   BP remains stable, restart statin. Hold BP meds tomorrow am for HD. IF
   BP continues to fluctuate cut back on BP meds. However, prefer to keep
   BP low given poor EF.
   .
   # CAD: Normal CK at OSH and elevated tropinin in the setting of renal
   failure.  EKG changes are most likely due to LVH with strain pattern.
   CK flat. Tropinin increase likely [**12-23**] renal failure, although some
   demand ischemia cannot be r/o.
   -          optimize CHF medications
   -          ASA
   .
   # DM: Glucose widely fluctuating between 51 and 318 over last 24 hrs.
   Changing requirements in setting of acute infection.
   -Decrease glargine and adjust ISS as necessary
 RENAL FAILURE,
   # ESRD/HD:  next dialysis scheduled for tomorrow.
   -          renal following, appreciate recs
   -          Hydral/imdur over [**Last Name (un) 284**]/ACE for CHF treatment optimization,
   holding tomorrow am.
   .
   # Diarrhea: Elevated WBC and bandemia.  Recent antibiotics.  Needs to
   rule out c diff.
   - c diff neg x3
   - d/ced oral vanc and flagyl
   .
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   :  Improving per daughter. [**Name (NI) **] nursing stage 3
   -          appreciate wound care recs
   -          flexocele to limit contramination
   .

 HERPES ZOSTER
   R flank rash: exam c/w zoster, although patient does not express pain
   (admittedly difficult to properly assess).
   - zoster precautions for staff
   -wound care recs
   .
   # Access: PIV x3, R subclavian HD acess, R a- line. To IR for picc
   tomorrow(?)
   .
   # FEN: TF restarted as per nutrition
   .
   # PPx: pneumoboots, PPI.
   .
   # Code: Full code, no central lines after discussing with family (wife
   [**Name (NI) **] [**Name (NI) **], daughters [**Name (NI) 2645**] and [**Name (NI) 2646**])
   .
   # Contact: Wife [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 2647**], Daughter [**Name (NI) 2645**] [**Telephone/Fax (1) 2648**], [**Name2 (NI) 2646**]
   [**Telephone/Fax (1) 2649**]
   .
   # Dispo: ICU level care for now, to rehab once bacteria identification
   and abx choice and length of treatment specified
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 HERPES ZOSTER
 DIARRHEA
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 CANDIDIASIS, ORAL
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2187-10-26**] 12:22 AM
   Arterial Line - [**2187-10-26**] 06:00 PM
   20 Gauge - [**2187-10-28**] 10:45 AM
   PICC Line - [**2187-10-29**] 03:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-11-01 05:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2187-10-31**] 07:00 PM
   - PT/OT ordered
   - noted to be hypotensive with MAP ~ 50, bolused 250ml X 3 during
   evening with improvement in BPs
   - pressures picked up through the night - MAP of 85 at 0530
   -converted to Afib with variable block overnight, rate in 80s
   - called this afternoon, One line of Klebs on [**10-27**] sputum likely
   resistant to meropenem and amikacin
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2187-10-29**] 10:00 AM
   Meropenem - [**2187-10-31**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Keppra
   ISS
   Coreg
   Atorvastatin
   ASA
   Nystatin
   Meropenem
   Ipratropium
   Albuterol
   Acetaminophen
   Calcium carb
   Lansoprazole
   Chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-1**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.1
   HR: 82 (66 - 89) bpm
   BP: 123/49(75) {70/28(43) - 158/64(93)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 100% (100)
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 39.5 kg (admission): 40.5 kg
   Height: 61 Inch
             Total In:
                                                                  2,320 mL
                                                                    168 mL
   PO:
             TF:
                                                                    960 mL
                                                                    112 mL
   IVF:
                                                                  1,090 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -680 mL
                                                                    168 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 351 (351 - 351) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 427
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 24 cmH2O
   Compliance: 19.9 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 7.1 L/min
   Physical Examination
   Gen:  Not responding to verbal stimuli. Opens eyes to voice but not
   following commands.
   HEENT:  Pupils round and minimally reactive to light, MMM
   Heart:  S1S2 RRR, distant heart sounds
   Lungs:  coarse breath sounds bilaterally.
   Abdomen:  PEG tube in place. + BS.  Soft ND. R sided excoriated rash
   along approx T 10 dermatome and not crossing midline anteriorly or
   posteriorly.  Rash worsening with increase in lesions and some clear
   secretions from lesions, skin open on area or rash on back but covered,
   some areas of erythema but no active superinfection noted.
   Ext:  Sacral decubitus ulcer w/covering bandage.  No edema.
   Neuro:  Unresponsive to verbal stimuli, not following commands.
   Decreased reflexes all 4 extremities.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Tele: Aflutter with variable block
   Labs / Radiology
   56 K/uL
   9.3 g/dL
   143 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.7 mEq/L
   32 mg/dL
   105 mEq/L
   138 mEq/L
   28.2 %
   6.7 K/uL
        [image002.jpg]
   Plts admit was 99, now 56.
   Diff: N:53 Band:6 L:14 M:18 E:4 Bas:1 Atyps: 1 Metas: 2 Myelos: 1
   Micro:  MRSA swab Positive
   [**10-27**] Sputum, Klebsiella with 2 different lines. 1 line meropenem
   sensitive. 2 line originally stated sensitive to meropenem, now lab
   called and said likely resistant to both meropenem and amikacin. Staph
   coag positive also added to [**10-27**] culture
   [**10-29**] sputume GNR x 3
                             [**2187-10-27**]  01:13 PM
                             [**2187-10-27**]  09:03 PM
                             [**2187-10-28**]  02:47 AM
                             [**2187-10-28**]  03:03 AM
                             [**2187-10-28**]  06:11 AM
                             [**2187-10-29**]  02:00 AM
                             [**2187-10-30**]  02:11 AM
                             [**2187-10-30**]  02:24 PM
                            [**2187-10-31**]  03:53 AM
                            [**2187-11-1**]  02:51 AM
   WBC
   17.2
   11.5
   8.9
   7.3
   6.7
   Hct
   31.5
   29.8
   27.3
   28.7
   28.6
   28.2
   Plt
   66
   63
   66
   64
   56
   Cr
   2.3
   3.0
   1.6
   2.3
   1.5
   TCO2
   26
   25
   26
   27
   Glucose
   81
   73
   70
   32
   128
   143
   Other labs: PT / PTT / INR:16.9/37.8/1.5, CK / CKMB /
   Troponin-T:82//3.75, Alk Phos / T Bili:/0.5, Differential-Neuts:53.0 %,
   Band:6.0 %, Lymph:14.0 %, Mono:18.0 %, Eos:4.0 %, LDH:189 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   78 y/o gentleman with CAD, systolic CHF EF 20%, ischemic/hemorrhagic
   CVA, ESRD/HD, recurrent PNA presents with septic shock, respiratory
   failure and altered mental status.
   .
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Continued fever.   Patient has known pneumonia with MRSA and Klebsiella
   in the past. Known to have VRE in past.  [**10-27**] Sputum culture shows
   Klebsiella with 2 separate lines isolate which was originally both
   sensitive to amikacin and meropenem.  Called today that one line is
   likely resistant to meropenem and amikacin. Coag positive staph also
   added to [**10-27**] sputum.  Fevers had largely subsided and WBC have
   decreased.  Dips in blood pressure likely secondary to positioning of
   A-line and/or post-HD hypotension (fluid responsive) so unlikely to be
   due to sepsis. New fever overnight. Diff on CBC today with multiple
   abnormal WBCs
   - ID called for ESBL resistant to meropenom and amikican
   - renally dosed IV  meropenem for now, length of treatment with abx to
   be determined
   - Was on IV vanco from [**10-26**] to [**10-30**]. stoped [**10-30**] [**12-23**] lack of GPC on
   cult. However, today coag positive staph also added to [**10-27**] sputum,
   restart Vanco with HD protacol
   - flexocele in to limit fecal contamination of decubitous ulcer
   - IVF to keep MAP > 60
   - monitor fluid status, HD yesterday, bloused 750 cc o/n for
   hypotension
   -recultured for new spike in fever curve
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   :  Likely secondary to sepsis.  Reportedly responding to family
   yesterday. Continue to monitor.
   .
 RESPIRATORY FAILURE, CHRONIC
    Hypoxia:  Resolving.  Most likely due to PNA.  Currently saturating
   well on vent support.  Poor EF likely also contributing.  Continue to
   wean as tolerated. Attempt PS
   -          Continue meropenem
   -          Consult PT/OT
   # Hematology: On presentation WBC to 40s, now down to 6.7. [**11-1**] diff
   with abnormal cells. Thrombocytopenic on admission but has decreased
   from 99 to 56. No heparin given this admission given h/o heparin
   allergy.  Anemia stable at 28 close to same level on admission. Chronic
   multiple line suppression concerning for marrow process. [**Month (only) 11**] also by
   [**12-23**] drugs (meropenem and vanco) or infection. [**Month (only) 11**] also be [**12-23**] ESRD
   -Hematology consult pending
   -treand CBC
   -transfuse plts for plt < 20 or active bleeding
   # Atrial flutter: New onset overnight but likely in afib in past given
   recent h/o embolic stroke. Rate controlled. Likely triggered by change
   in fluid status / hypotension vs fever and new infectious process
   -monitor rate
   .
 CANDIDIASIS, ORAL
   :  Nystatin swish and suction
   .
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   :  Currently does not appear to be volume overloaded.  On HD took off
   3L yesterday, hypotensive afterwards. Bolused 750cc back
   -    on B-blocker
   -          ASA
   -          d/ced .Hydralizine/Imdur  [**12-23**] hypotension to maximize HD
   -          Consider adding back ACE later  as it becomes more clear
   that RF is not recovering, damage likely permenant
   -          Consider restarting statin prior to d/c.
   .
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   : Normal CK at OSH and elevated tropinin in the setting of renal
   failure.  EKG changes are most likely due to LVH with strain pattern.
   CK flat. Troponin increase likely [**12-23**] renal failure, although some
   demand ischemia cannot be r/o.
   -          optimize CHF medications
   -          ASA
   .
   # DM: Glucose 100-200. adjusted glargine and SS at hs, did much better
   today
   -monitor FS
 RENAL FAILURE,
   # ESRD/HD:  HD yesterday
   -          renal following, appreciate recs
   -          Hydral/imdur over [**Last Name (un) 284**]/ACE for CHF treatment optimization
   -          Keppra dose changed  to after HD
   ..
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   :  Improving per daughter. Wound care following.
   -          appreciate wound care recs
   -          flexocele to limit contramination
   .

 HERPES ZOSTER
   R flank rash: exam c/w zoster, although patient does not express pain
   - zoster precautions for staff
   -keep open to air
   .
   # Access: PICC, PIV x3, R subclavian HD acess, R a- line.
   .
   # FEN: TF restarted as per nutrition
   .
   # PPx: pneumoboots, PPI.
   .
   # Code: Full code, no central lines after discussing with family (wife
   [**Name (NI) **] [**Name (NI) **], daughters [**Name (NI) 2645**] and [**Name (NI) 2646**])
   .
   # Contact: Wife [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 2647**], Daughter [**Name (NI) 2645**] [**Telephone/Fax (1) 2648**], [**Name2 (NI) 2646**]
   [**Telephone/Fax (1) 2649**]
   .
   # Dispo: ICU level care for now, to rehab once bed available.
 DIARRHEA- resolved
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2187-10-26**] 12:22 AM
   Arterial Line - [**2187-10-26**] 06:00 PM
   PICC Line - [**2187-10-29**] 03:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-11-02 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2187-11-1**] 04:00 PM
   -meropenem-resistant Klebsiella on sputum, MRSA, restarted vanco. ID
   aware.
   -d/c nitro/hydral per renal recs
   -aflutter on telemetry
   -per ID, would like culture and sensitivity info from [**Hospital1 966**] or Radius
   -heme, no recs on diff.
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2187-10-31**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-2**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 83 (56 - 89) bpm
   BP: 148/50(83) {114/38(62) - 168/72(102)} mmHg
   RR: 21 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 39.5 kg (admission): 40.5 kg
   Height: 61 Inch
             Total In:
                                                                  1,328 mL
                                                                    313 mL
   PO:
             TF:
                                                                    968 mL
                                                                    251 mL
   IVF:
                                                                    240 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,028 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 351 (351 - 351) mL
   Vt (Spontaneous): 95 (95 - 95) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 294
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 7.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   53 K/uL
   8.5 g/dL
   233 mg/dL
   2.3 mg/dL
   25 mEq/L
   3.4 mEq/L
   58 mg/dL
   102 mEq/L
   135 mEq/L
   26.4 %
   6.7 K/uL
        [image002.jpg]
                             [**2187-10-27**]  09:03 PM
                             [**2187-10-28**]  02:47 AM
                             [**2187-10-28**]  03:03 AM
                             [**2187-10-28**]  06:11 AM
                             [**2187-10-29**]  02:00 AM
                             [**2187-10-30**]  02:11 AM
                             [**2187-10-30**]  02:24 PM
                            [**2187-10-31**]  03:53 AM
                            [**2187-11-1**]  02:51 AM
                            [**2187-11-2**]  04:12 AM
   WBC
   17.2
   11.5
   8.9
   7.3
   6.7
   Hct
   31.5
   29.8
   27.3
   28.7
   28.6
   28.2
   26.4
   Plt
   66
   63
   66
   64
   56
   53
   Cr
   2.3
   3.0
   1.6
   2.3
   1.5
   2.3
   TCO2
   25
   26
   27
   Glucose
   81
   73
   70
   32
   128
   143
   233
   Other labs: PT / PTT / INR:14.1/33.2/1.2, CK / CKMB /
   Troponin-T:82//3.75, Alk Phos / T Bili:/0.5, Differential-Neuts:50.0 %,
   Band:10.0 %, Lymph:14.0 %, Mono:15.0 %, Eos:3.0 %, LDH:189 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   78 y/o gentleman with CAD, systolic CHF EF 20%, ischemic/hemorrhagic
   CVA, ESRD/HD, recurrent PNA presents with septic shock, respiratory
   failure and altered mental status.
   .
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Continued fever.   Patient has known pneumonia with MRSA and Klebsiella
   in the past. Known to have VRE in past.  [**10-27**] Sputum culture shows
   Klebsiella with 2 separate lines isolate which was originally both
   sensitive to amikacin and meropenem.  Called today that one line is
   likely resistant to meropenem and amikacin. Coag positive staph also
   added to [**10-27**] sputum.  Fevers had largely subsided and WBC have
   decreased.  Dips in blood pressure likely secondary to positioning of
   A-line and/or post-HD hypotension (fluid responsive) so unlikely to be
   due to sepsis. New fever overnight. Diff on CBC today with multiple
   abnormal WBCs
   - ID called for ESBL resistant to meropenom and amikican
   - renally dosed IV  meropenem for now, length of treatment with abx to
   be determined
   - Was on IV vanco from [**10-26**] to [**10-30**]. stoped [**10-30**] [**12-23**] lack of GPC on
   cult. However, today coag positive staph also added to [**10-27**] sputum,
   restart Vanco with HD protacol
   - flexocele in to limit fecal contamination of decubitous ulcer
   - IVF to keep MAP > 60
   - monitor fluid status, HD yesterday, bloused 750 cc o/n for
   hypotension
   -recultured for new spike in fever curve
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   :  Likely secondary to sepsis.  Reportedly responding to family
   yesterday. Continue to monitor.
   .
 RESPIRATORY FAILURE, CHRONIC
    Hypoxia:  Resolving.  Most likely due to PNA.  Currently saturating
   well on vent support.  Poor EF likely also contributing.  Continue to
   wean as tolerated. Attempt PS
   -          Continue meropenem
   -          Consult PT/OT
   # Hematology: On presentation WBC to 40s, now down to 6.7. [**11-1**] diff
   with abnormal cells. Thrombocytopenic on admission but has decreased
   from 99 to 56. No heparin given this admission given h/o heparin
   allergy.  Anemia stable at 28 close to same level on admission. Chronic
   multiple line suppression concerning for marrow process. [**Month (only) 11**] also by
   [**12-23**] drugs (meropenem and vanco) or infection. [**Month (only) 11**] also be [**12-23**] ESRD
   -Hematology consult pending
   -treand CBC
   -transfuse plts for plt < 20 or active bleeding
   # Atrial flutter: New onset overnight but likely in afib in past given
   recent h/o embolic stroke. Rate controlled. Likely triggered by change
   in fluid status / hypotension vs fever and new infectious process
   -monitor rate
   .
 CANDIDIASIS, ORAL
   :  Nystatin swish and suction
   .
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   :  Currently does not appear to be volume overloaded.  On HD took off
   3L yesterday, hypotensive afterwards. Bolused 750cc back
   -    on B-blocker
   -          ASA
   -          d/ced .Hydralizine/Imdur  [**12-23**] hypotension to maximize HD
   -          Consider adding back ACE later  as it becomes more clear
   that RF is not recovering, damage likely permenant
   -          Consider restarting statin prior to d/c.
   .
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   : Normal CK at OSH and elevated tropinin in the setting of renal
   failure.  EKG changes are most likely due to LVH with strain pattern.
   CK flat. Troponin increase likely [**12-23**] renal failure, although some
   demand ischemia cannot be r/o.
   -          optimize CHF medications
   -          ASA
   .
   # DM: Glucose 100-200. adjusted glargine and SS at hs, did much better
   today
   -monitor FS
 RENAL FAILURE,
   # ESRD/HD:  HD yesterday
   -          renal following, appreciate recs
   -          Hydral/imdur over [**Last Name (un) 284**]/ACE for CHF treatment optimization
   -          Keppra dose changed  to after HD
   ..
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   :  Improving per daughter. Wound care following.
   -          appreciate wound care recs
   -          flexocele to limit contramination
   .

 HERPES ZOSTER
   R flank rash: exam c/w zoster, although patient does not express pain
   - zoster precautions for staff
   -keep open to air
   .
   # Access: PICC, PIV x3, R subclavian HD acess, R a- line.
   .
   # FEN: TF restarted as per nutrition
   .
   # PPx: pneumoboots, PPI.
   .
   # Code: Full code, no central lines after discussing with family (wife
   [**Name (NI) **] [**Name (NI) **], daughters [**Name (NI) 2645**] and [**Name (NI) 2646**])
   .
   # Contact: Wife [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 2647**], Daughter [**Name (NI) 2645**] [**Telephone/Fax (1) 2648**], [**Name2 (NI) 2646**]
   [**Telephone/Fax (1) 2649**]
   .
   # Dispo: ICU level care for now, to rehab once bed available.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 ATRIAL FLUTTER (AFLUTTER)
 THROMBOCYTOPENIA, CHRONIC
 ANEMIA, CHRONIC
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 HERPES ZOSTER
 DIARRHEA
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 CANDIDIASIS, ORAL
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 VENTILATION, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2187-11-1**] 10:31 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2187-10-26**] 12:22 AM
   Arterial Line - [**2187-10-26**] 06:00 PM
   PICC Line - [**2187-10-29**] 03:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Critical Care
   Present for key portions of history and exam. Agree with A&P as above
   by Dr. [**Last Name (STitle) 2802**]. Temp trending down, and he is back in NSR, although now
   some episodes of brady likely due to Sick Sinus. No hypotension and
   will continue beta blockade for now. ID has evaluated Klebsiella
 for
   now holding on Colistin but organism sensitivity is very ominous.  BP
   more stable on HD recently.
   Time spent
 40 min
   ------ Protected Section ------
   [**11-2**] Physical exam
   Gen:  Not responding to verbal stimuli. Opens eyes to voice but not
   following commands.
   HEENT:  Pupils round and minimally reactive to light, MMM
   Heart:  S1S2 RRR, distant heart sounds
   Lungs:  coarse breath sounds bilaterally.
   Abdomen:  PEG tube in place. + BS.  Soft ND. R sided excoriated rash
   along approx T 10 dermatome and not crossing midline anteriorly or
   posteriorly.  Rash stable without  further clear secretions from
   lesions, skin open on area or rash on back but covered, some areas of
   erythema but no active superinfection noted.
   Ext:  Sacral decubitus ulcer w/covering bandage.  No edema.
   Neuro:  Unresponsive to verbal stimuli, not following commands.
   Decreased reflexes all 4 extremities.
   .
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2683**], MD
   on:[**2187-11-2**] 13:12 ------
   [**11-2**]  plan:
   .
   78 y/o gentleman with CAD, systolic CHF EF 20%, ischemic/hemorrhagic
   CVA, ESRD/HD, recurrent PNA presents with septic shock, respiratory
   failure and altered mental status.
   .
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   PT no longer febrile.   Patient has known pneumonia with MRSA and
   Klebsiella in the past. Known to have VRE in past.  [**10-27**] Sputum culture
   shows Klebsiella with 2 separate lines isolate which was originally
   both sensitive to amikacin and meropenem.  Called [**11-1**] that one line
   is likely resistant to meropenem and amikacin, however it is not ESBL.
   Coag positive staph also added to [**10-27**] sputum.  Fevers have largely
   subsided and WBC have decreased.  Dips in blood pressure likely
   secondary to positioning of A-line and/or post-HD hypotension (fluid
   responsive) so unlikely to be due to sepsis. New fever overnight. Diff
   on CBC today with multiple abnormal WBCs
   - ID called for ESBL Klebs and Non ESBL klebs resistant to meropenom
   and amikican. ID questions whether practically the 2^nd Kleb is not
   really ESBL.
   - renally dosed IV  meropenem for now, length of treatment with abx to
   be determined. Will await ID recs for the need for any additional abx.
   - Was on IV vanco from [**10-26**] to [**10-30**]. stoped [**10-30**] [**12-23**] lack of GPC on
   cult. However, yesterday  coag positive staph also added to [**10-27**]
   sputum, restarted Vanco with HD protocol. However missed dose until
   today because he had no HD only now.
   - flexocele in to limit fecal contamination of decubitous ulcer
   - IVF to keep MAP > 60
   - monitor fluid status, HD yesterday, bloused 750 cc o/n for
   hypotension
   -recultured yesterday, f/u results.
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   :  Likely secondary to sepsis.  Reportedly responding to family.
   Continue to monitor.
   .
 RESPIRATORY FAILURE, CHRONIC
    Hypoxia:  Resolving.  Most likely due to PNA.  Currently saturating
   well on vent support.  Poor EF likely also contributing.  Continue to
   wean as tolerated. Attempt PS
   -          Continue meropenem
   -          Wean as tolerated
   # Hematology: On presentation WBC to 40s, now down to 6.7. [**11-1**] diff
   with abnormal cells. Thrombocytopenic on admission but has decreased
   from 99 to 56. No heparin given this admission given h/o heparin
   allergy.  Anemia stable at 28 close to same level on admission. Chronic
   multiple line suppression concerning for marrow process. [**Month (only) 11**] also by
   [**12-23**] drugs (meropenem and vanco) or infection. [**Month (only) 11**] also be [**12-23**] ESRD
   -Hematology consult appreciated. No specific recs, likely
   multifactoiral as stated above. To follow up with [**First Name8 (NamePattern2) 547**] [**Last Name (NamePattern1) 2803**] as outpt.
   -treand CBC
   -transfuse plts for plt < 20 or active bleeding
   # Atrial flutter: New onset yesterday but likely in afib in past given
   recent h/o embolic stroke. Rate controlled. Likely triggered by change
   in fluid status / hypotension vs fever and new infectious process
   -monitor rate
   - O/N back in sinus rythem. No anitcoag given h/o stroke.;
   .
 CANDIDIASIS, ORAL
   :  Nystatin swish and suction
   .
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   :  Currently does not appear to be volume overloaded.  On HD took off
   3L on [**10-31**]
   -    on B-blocker, should begin holding dose in am on HD days to
   facilitate increased dialysis.
   -          ASA
   -          d/ced .Hydralizine/Imdur  [**12-23**] hypotension to maximize HD
   -          Consider adding back ACE later  as it becomes more clear
   that RF is not recovering, damage likely permenant
   -          Consider restarting statin prior to d/c.
   .
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   : Normal CK at OSH and elevated tropinin in the setting of renal
   failure.  EKG changes are most likely due to LVH with strain pattern.
   CK flat. Troponin increase likely [**12-23**] renal failure, although some
   demand ischemia cannot be r/o.
   -          optimize CHF medications
   -          ASA
   .
   # DM: Glucose 100-200. adjusted glargine and SS at hs, did much better
   today
   -monitor FS
 RENAL FAILURE,
   # ESRD/HD:  HD yesterday
   -          renal following, appreciate recs
   -          Hydral/imdur d/ced
   -          ACE originally avoided [**12-23**]
   -          Keppra dose changed  to after HD
   ..
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   :  Improving per daughter. Wound care following.
   -          appreciate wound care recs
   -          flexocele to limit contramination
   .

 HERPES ZOSTER
   R flank rash: exam c/w zoster, although patient does not express pain
   - zoster precautions for staff
   -keep open to air
   .
   # Access: PICC, PIV x3, R subclavian HD acess, R a- line.
   .
   # FEN: TF restarted as per nutrition
   .
   # PPx: pneumoboots, PPI.
   .
   # Code: Full code, no central lines after discussing with family (wife
   [**Name (NI) **] [**Name (NI) **], daughters [**Name (NI) 2645**] and [**Name (NI) 2646**])
   .
   # Contact: Wife [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 2647**], Daughter [**Name (NI) 2645**] [**Telephone/Fax (1) 2648**], [**Name2 (NI) 2646**]
   [**Telephone/Fax (1) 2649**]
   .
   # Dispo: ICU level care for now, to rehab once bed available.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2683**], MD
   on:[**2187-11-2**] 13:34 ------
   Dispo: pt received bed in rehab today to d/c pending determination of
   abx choice and length of therapy.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2683**], MD
   on:[**2187-11-2**] 13:59 ------